US09290472B2
Iron powder (4.07 g) was added slowly with stirring and cooling to a solution of methyl 6-amino-3-bromo-2-nitrobenzoate (prepared according to Brock et al, Tetrahedron, 1963, 19, 1911; 2.0 g) in a mixture of absolute ethanol (49 mL), acetic acid (5 mL), formic acid (0.7 mL) and water (15 mL). On completion of the addition, the mixture was stirred at room temperature for 2 hours. The mixture was diluted with DCM and water (1:1) then filtered through Celite. The layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were washed with 1M aqueous sodium hydroxide solution, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was triturated with ether and cyclohexane (1:1) and the solid was collected by filtration to give methyl 3-bromo-2,6-diaminobenzoate (1.34 g) as a pale yellow solid.

reactant | methyl 6-amino-3-bromo-2-nitrobenzoate | 2.0 g | NC1=CC=C(C(=C1C(=O)OC)[N+](=O)[O-])Br | C8H7BrN2O4
reactant | ethanol | 49 mL | C(C)O | C2H6O
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | formic acid | 0.7 mL | C(=O)O | CH2O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | Iron | 4.07 g | [Fe] | Fe
solvent | water | 15 mL | O | H2O
product | methyl 3-bromo-2,6-diaminobenzoate | 1.34 g | BrC=1C(=C(C(=O)OC)C(=CC1)N)N | C8H9BrN2O2
